US04003934
As an alternative to obtaining a mixture of Schiff bases VI and VI(a) or VI(b), the reaction can be conducted stepwise. For example, 4-(2-aminoethyl)piperidine may be converted to a Schiff base with 1,5-di-[3,3-dimethylbicyclo[2.2.1]hept-2-yl]pentan-3-one, catalytically reduced, the ring nitrogen selectively cyanoethylated with acrylonitrile, followed by catalytic hydrogenation to furnish 1-(3-aminopropyl)-4-[2-(1,5-di-[3,3-dimethylbicyclo[2.2.1]hept-2-yl]-3-pentylamino)ethyl]piperidine.

reactant | 4-(2-aminoethyl)piperidine | NCCC1CCNCC1 | C7H16N2
reactant | 1,5-di-[3,3-dimethylbicyclo[2.2.1]hept-2-yl]pentan-3-one | CC1(C(C2CCC1C2)CCC(CCC2C1CCC(C2(C)C)C1)=O)C | C23H38O
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 1-(3-aminopropyl)-4-[2-(1,5-di-[3,3-dimethylbicyclo[2.2.1]hept-2-yl]-3-pentylamino)ethyl]piperidine | NCCCN1CCC(CC1)CCNC(CCC1C2CCC(C1(C)C)C2)CCC2C1CCC(C2(C)C)C1 | C33H61N3
